US04072696
1 G. of 1-acetamido-2-amino-4-propargylsulfinylbenzene in 30 ml. acetone is treated overnight at room temperature with 2 g. methoxy carbonyl isothiocyanate. The solution is concentrated and the residue triturated with ether. Recrystallization yields 2-acetamido-1-(3-methoxycarbonyl-2-thioureido)-5-propargylsulfinylbenzene.

reactant | 1-acetamido-2-amino-4-propargylsulfinylbenzene | C(C)(=O)NC1=C(C=C(C=C1)S(=O)CC#C)N | C11H12N2O2S
reactant | methoxy carbonyl isothiocyanate | COC(=O)N=C=S | C3H3NO2S
solvent | acetone | CC(=O)C | C3H6O
product | 2-acetamido-1-(3-methoxycarbonyl-2-thioureido)-5-propargylsulfinylbenzene | C(C)(=O)NC1=C(C=C(C=C1)S(=O)CC#C)NC(=S)NC(=O)OC | C14H15N3O4S2
